US07982036B2
A solution of 6-chloro-N-(3-phenoxyphenyl)pyrimidine-4-amine (0.25 g, 0.8 mmol), 1,3-diaminobenzene (0.36 g, 3.3 mmol), n-butanol (10 mL) and conc. HCl (61 mg, 1.6 mmol) was subjected to microwave irradiation (160° C., 15 min). The reaction mixture was cooled, was concentrated under reduced pressure and the residue was taken in EtOAc (10 mL). The EtOAc solution was washed with water (5 mL) and brine (5 mL), and was dried over Na2SO4. Concentration under reduced pressure gave a residue that was purified by column chromatography (SiO2, 60-120, hexane/ethyl acetate, 6/4) to give N4-(3-aminophenyl)-N6-(3-phenoxyphenyl)pyrimidine-4,6-diamine (0.1 g, 32%) as a brown solid.

reactant | 6-chloro-N-(3-phenoxyphenyl)pyrimidine-4-amine | 0.8 mmol, 0.25 g | ClC1=CC(=NC=N1)NC1=CC(=CC=C1)OC1=CC=CC=C1 | C16H12ClN3O
reactant | 1,3-diaminobenzene | 3.3 mmol, 0.36 g | NC1=CC(=CC=C1)N | C6H8N2
reactant | HCl | 1.6 mmol, 61 mg | Cl | ClH
solvent | n-butanol | 10 mL | C(CCC)O | C4H10O
product | N4-(3-aminophenyl)-N6-(3-phenoxyphenyl)pyrimidine-4,6-diamine | 0.1 g, 32% | NC=1C=C(C=CC1)NC1=NC=NC(=C1)NC1=CC(=CC=C1)OC1=CC=CC=C1 | C22H19N5O
